US07939524B2
g) (1R,2S,7R,8S)-5-(1,1-Dioxo-1,4-dihydro-1λ6-thia-2,4,8-triaza-naphthalen-3-yl)-3-(4-fluoro-benzyl)-6-hydroxy-3-aza-tricyclo[6.2.1.02,7]undec-5-en-4-one
The crude (1,1-dioxo-1,4-dihydro-1λ6-thia-2,4,8-triaza-naphthalen-3-yl)-acetic acid sodium salt (˜0.928 mmol), (1S,2R,3S,4R)-3-(4-fluoro-benzylamino)-bicyclo[2.2.1]heptane-2-carboxylic acid ethyl ester (0.27 g, 0.928 mmol) and O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (0.494 g, 1.3 mmol) were combined and dissolved in anhydrous N,N-dimethylformamide (2 mL). The mixture was stirred at 25° C. for 1.5 h. Triethylamine (0.697 mL, 5 mmol) was added and the mixture was stirred at 50° C. for 16 h. Upon cooling, the mixture was diluted with ethyl acetate (100 mL), washed with saturated aqueous ammonium chloride solution (2×25 mL) and saturated aqueous brine solution (25 mL). The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. The resulting solid was triturated with ethyl acetate (˜15 mL) and the product solidified. The solid was collected by vacuum filtration and dried in vacuo for 16 h to afford the desired product, (1R,2S,7R,8S)-5-(1,1-dioxo-1,4-dihydro-1λ6-thia-2,4,8-triaza-naphthalen-3-yl)-3-(4-fluoro-benzyl)-6-hydroxy-3-aza-tricyclo[6.2.1.02,7]undec-5-en-4-one (0.03 g, 0.064 mmol, 6.9%), as a white powder. 1H NMR (400 MHz, DMSO-d6) δ: 0.92-1.05 (2H, m), 1.18-1.46 (4H, m), 2.26 (1H, d, J=3.1 Hz), 2.36 (1H, d, J=9.5 Hz), 2.45 (1H, d, J=3.0 Hz), 3.15 (1H, d, J=9.4 Hz), 4.13 (1H, d, J=15.6 Hz), 4.86 (1H, d, J=15.6 Hz), 7.01-7.05 (2H, m), 7.16-7.20 (2H, m), 7.39-7.42 (1H, m), 7.50 (1H, dd, J1=8.6 Hz, J2=1.6 Hz), 8.26 (1H, dd, J1=4.6 Hz, J2=1.5 Hz). LC-MS (ESI) calcd for C23H21FN4O4S 468.13, found 469.2 [M+H+].

reactant | (1,1-dioxo-1,4-dihydro-1λ6-thia-2,4,8-triaza-naphthalen-3-yl)-acetic acid sodium salt | ˜0.928 mmol | [Na+].O=S1(N=C(NC2=CC=CN=C12)CC(=O)[O-])=O
reactant | (1S,2R,3S,4R)-3-(4-fluoro-benzylamino)-bicyclo[2.2.1]heptane-2-carboxylic acid ethyl ester | 0.928 mmol, 0.27 g | C(C)OC(=O)[C@@H]1[C@H]2CC[C@@H]([C@@H]1NCC1=CC=C(C=C1)F)C2 | C17H22FNO2
reactant | O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 1.3 mmol, 0.494 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | Triethylamine | 5 mmol, 0.697 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (1R,2S,7R,8S)-5-(1,1-dioxo-1,4-dihydro-1λ6-thia-2,4,8-triaza-naphthalen-3-yl)-3-(4-fluoro-benzyl)-6-hydroxy-3-aza-tricyclo[6.2.1.02,7]undec-5-en-4-one | 0.064 mmol, 0.03 g, 6.9% | O=S1(N=C(NC2=CC=CN=C12)C=1C(N([C@H]2[C@@H]3CC[C@H]([C@H]2C1O)C3)CC3=CC=C(C=C3)F)=O)=O | C23H21FN4O4S
